US05284851
Preparation of hexahydro-1-methoxy-2-nitromethylenepyrimidine
2.0 g (0.011 mol) of 1-amino-3-methoxyaminopropane dihydrochloride and 2.53 g (0.023 mol) of potassium tert-butylate are refluxed in 120 ml of ethanol for 1 hour. Subsequently, 1.86 g (0.011 mol) of 1,1-bis(methylthio)-2-nitroethylene is added and the mixture is refluxed for a further 6 hours until no more gas evolves. The salts are separated off by filtration and the solvent is removed. The crude product is purified by flash chromatography using toluene/ethanol as developer. The desired product is obtained as slightly yellowish crystals.

reactant | 1-amino-3-methoxyaminopropane dihydrochloride | 0.011 mol, 2.0 g | Cl.Cl.NCCCNOC
reactant | potassium tert-butylate | 0.023 mol, 2.53 g | CC(C)(C)[O-].[K+]
reactant | 1,1-bis(methylthio)-2-nitroethylene | 0.011 mol, 1.86 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | hexahydro-1-methoxy-2-nitromethylenepyrimidine | CON1C(NCCC1)=C[N+](=O)[O-] | C6H11N3O3
